US07250410B2
3-(1,1′-biphenyl-3-ylmethyl)—ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIcu.
By replacing 5-(4-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbl) in example IIbp by 3-(3-bromobenzyl)-1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIcj) and proceeding in the same manner, the abovenamed product is obtained. Yield: 33% M: 139–141° C. 1H-NMR (CDCl3, 200 MHz): d 1.12 (s, 3H, CH3), 3.50–3.89 (m, 7H, OCH3+CH+1H NCH2+—CH2Ph), 3.99 (s, 3H, OCH3), 4.38–4.48 (m, 1H NCH2), 6.67 (s, 1H Ar), 6.85 (s, 1H Ar), 7.43–7.68 (m, 14H Ar).

reactant | 5-(4-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | BrC1=CC=C(C=C1)C1=NCC(N(C2=C1C=C(C(=C2)OC)OC)CC)=O | C19H19BrN2O3
reactant | 3-(3-bromobenzyl)-1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | BrC=1C=C(CC2C(N(C3=C(C(=N2)C2=CC=CC=C2)C=C(C(=C3)OC)OC)CC)=O)C=CC1 | C26H25BrN2O3
product | 3-(1,1′-biphenyl-3-ylmethyl)—ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 33% | C1(=CC(=CC=C1)CC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C(=C2)OC)OC)CC)=O)C2=CC=CC=C2 | C32H30N2O3
